US07129268B2
{4-[3,3-Bis-(4-chloro-phenyl)-allylsulfanyl]-2-methoxy-phenoxy}-acetic acid
{4-[3,3-Bis-(4-chlorophenyl)-allylsulfanyl]-2-methoxy-phenoxy}-acetic acid methyl ester (280 mg, 0.57 mmol) was dissolved in warm ethanol (10 ml). 1N NaOH (1 ml) was added at room temperature and the reaction mixture was stirred for 2 h after which it was evapo-rated. The residue was treated with 1N HCl (1.2 ml) and extracted with dichloromethane (3×25 ml). The combined organic phases were dried and evaporated to give the title compound in 245 mg (90%) yield.

reactant | {4-[3,3-Bis-(4-chlorophenyl)-allylsulfanyl]-2-methoxy-phenoxy}-acetic acid methyl ester | 0.57 mmol, 280 mg | COC(COC1=C(C=C(C=C1)SCC=C(C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl)OC)=O | C25H22Cl2O4S
reactant | NaOH | 1N, 1 ml | [OH-].[Na+]
reactant | HCl | 1N, 1.2 ml | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | {4-[3,3-Bis-(4-chloro-phenyl)-allylsulfanyl]-2-methoxy-phenoxy}-acetic acid | ClC1=CC=C(C=C1)C(=CCSC1=CC(=C(OCC(=O)O)C=C1)OC)C1=CC=C(C=C1)Cl | C24H20Cl2O4S
